US07169323B2
A 1 L 3-necked round bottom flask equipped with a mechanical stirrer, thermocouple, reflux condenser and heating mantle was charged with C4F9SO2NH2 (58 g; 0.20 moles; as prepared above), NaOH (8.7 g; 0.22 moles; pellets) and water (60 mL) and heated at 98° C. for 45 minutes. Upon cooling to 76° C., ClCH2CO2Na (25 g; 0.22 moles, Sigma-Aldrich) was added and the temperature was then increased to 100° C. and maintained for 18 hours. Water was then added (200 mL) and a white solid appeared. The upper liquid phase was decanted off and discarded leaving the white solid, to which water (250 mL) was added. Water was removed to yield C4F9SO2N(H)CH2CO2Na (53.1 g ; 74% yield).

reactant | C4F9SO2NH2 | 0.20 moles, 58 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)N | C4H2F9NO2S
reactant | NaOH | 0.22 moles, 8.7 g | [OH-].[Na+]
reactant | ClCH2CO2Na | 0.22 moles, 25 g | ClCC(=O)O[Na]
solvent | water | 250 mL | O | H2O
solvent | water | 60 mL | O | H2O
product | C4F9SO2N(H)CH2CO2Na | 53.1 g, 74% yield | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)NCC(=O)O[Na] | InChI=1S/C6H4F9NO4S.Na/c7-3(8,5(11,12)13)4(9,10)6(14,15)21(19,20)16-1-2(17)18;/h16H,1H2,(H,17,18);/q;+1/p-1
